US05719278
6,7,8,9-Tetrahydro-9-(2-chloro-4-nitrobenzyl)-5H-pyrido[2,3-b]azepin-5-one
To a solution of 6,7,8,9-tetrahydro-5Hpyrido[2,3-b]azepin-5-one and 0.234 g of triethylamine in 6 ml of dichloromethane is added 0.506 g of 2-chloro-4-nitrobenzoyl chloride in 2 ml of dichloromethane. The mixture is stirred at room temperature overnight under argon. The solution is washed with H2O, 10% NaHCO3 and dried (MgSO4). The solvent is removed to give a brown oil which crystallizes. The mixture is chromatographed on silica with a waters Prep-500 instrument with ethyl acetate-hexane (1:1) as solvent to Give 2.4 g of off-white crystals, m.p. 162°-164 C. (identified as O-2-chloro-4-nitrobenzoyl derivative (2-chloro-4-nitro-benzoyl enolate of product) and 0.80 g of product as crystals, m.p. slowly decomposes 160°-220° C.

reactant | 6,7,8,9-tetrahydro-5Hpyrido[2,3-b]azepin-5-one | N1=CC=CC2=C1NCCCC2=O | C9H10N2O
reactant | triethylamine | 0.234 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-nitrobenzoyl chloride | 0.506 g | ClC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6,7,8,9-Tetrahydro-9-(2-chloro-4-nitrobenzyl)-5H-pyrido[2,3-b]azepin-5-one | 2.4 g | ClC1=C(CN2C3=C(C(CCC2)=O)C=CC=N3)C=CC(=C1)[N+](=O)[O-] | C16H14ClN3O3
